US08729095B2
To a dichloromethane solution (1000 ml) of (2R)-2-(benzyloxy)propionic acid (51.7 g) and tert-butyl 4-aminopiperidine-1-carboxylate (63.2 g) were added at room temperature 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (60.5 g) and 1-hydroxybenzotriazole monohydrate (42.7 g), followed by stirring overnight. The reaction solution was poured into a 0.5 N aqueous hydrochloric acid solution, and extracted with dichloromethane. The organic layer was washed sequentially with water, a saturated aqueous sodium hydrogen carbonate solution, water and saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to afford tert-butyl 4-{[(2R)-2-(benzyloxy)propanoyl]amino}piperidine-1-carboxylate (100 g).

reactant | (2R)-2-(benzyloxy)propionic acid | 51.7 g | C(C1=CC=CC=C1)O[C@@H](C(=O)O)C | C10H12O3
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 63.2 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 60.5 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 42.7 g | O.ON1N=NC2=C1C=CC=C2
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | tert-butyl 4-{[(2R)-2-(benzyloxy)propanoyl]amino}piperidine-1-carboxylate | 100 g | C(C1=CC=CC=C1)O[C@@H](C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)C | C20H30N2O4
